US08242116B2
1-Allyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole
The title compound was prepared from pyrazole-4-boronic acid pinacol ester and allyl bromide according to Method AC (after initial stirring at r.t. for 16 h, an additional 0.3 equivalent of sodium bis(trimethylsilyl)amide was added and the reaction mixture was stirred at 90° C. for 16 h) and was isolated as an amber oil (quantitative) that was used without further purification. LCMS (ES+) 235.0 (M+H)+, RT 3.09 minutes (Method 1).

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | sodium bis(trimethylsilyl)amide | 0.3 equivalent | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
product | 1-Allyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | C(C=C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
